
.SUBCKT LM3886 posin negin out posrail negrail mute gndpin
* IN+ IN- OUT VCC VEE MUTE GND
* 
* LM3886 spice model by teemuk 21032007 ver.1b
Q1 posrail posin N004 0 NPN
I1 N004 negrail 0.25m
Q2 posrail negin N003 0 NPN
I2 N003 negrail 0.25m
Q3 N011 N003 N010 0 PNP
Q4 N011 N018 N012 0 NPN
R1 N012 negrail 2.2k
I3 N018 negrail 0.1m
Q5 N017 N018 N024 0 NPN
R2 N024 negrail 2.2k
Q6 posrail N011 N018 0 NPN
R3 N009 N010 1.1k
R4 N009 N023 1.1k
Q7 N017 N004 N023 0 PNP
Q8 N017 N013 N016 0 PNP
Q9 N011 N025 N019 0 PNP
R5 N015 N016 4.7k
R6 N015 N019 4.7k
R7 N013 gndpin 10k
D1 N025 gndpin D
D2 gndpin N025 D
R8 out N025 10k
C1 out N017 10p
I4 N026 negrail 1m
Q10 posrail N017 N026 0 NPN
Q11 N030 N026 N031 0 NPN
R9 N031 negrail 800
Q12 N009 N008 N014 0 PNP
Q13 N015 N022 N014 0 PNP
I5 posrail N014 1m
I6 N022 negrail 1m
D3 N021 N022 D
D4 N020 N021 D
R10 posrail N020 1k
D5 N007 N008 D
D6 N006 N007 D
R11 posrail N006 1k
Q14 N008 gndpin N005 0 NPN
R12 N005 N001 1k
D7 N002 mute D
D8 N001 N002 D
D9 N032 N031 D
R13 N034 negrail 150
Q15 out N032 N034 0 NPN
Q16 out N034 N036 0 NPN
R14 N036 negrail 0.45
Q17 N032 N030 out 0 PNP
D10 N029 N030 D
D11 N028 N029 D
D12 N027 N028 D
R15 N033 out 150
Q18 posrail N027 N033 0 NPN
Q19 posrail N033 N035 0 NPN
R16 N035 out 0.45
I7 posrail N027 2.5m
.model D D
.model NPN NPN
.model PNP PNP
.end lm3886
